US08227601B2
To a suspension of (4-bromo-2,6-dimethylphenoxy)tert-butyldimethylsilane (668 mg, 2.12 mmol) and tetrakis(triphenylphosphine)palladium (122 mg, 0.11 mmol) in THF (20 mL) was added cyclopropyl zinc chloride (28.0 mL, 11.2 mmol). The mixture was heated at 80° C. for 24 h and cooled to room temperature. The reaction was passed through a short pad of SiO2 to remove the catalyst and the solution was concentrated to oil. The resulting oil was diluted in EtOAc (100 mL), washed with brine (100 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=90:10) yielded 370 mg (63%) of tert-butyl(4-cyclopropyl-2,6-dimethylphenoxy)dimethylsilane. To tert-butyl(4-cyclopropyl-2,6-dimethylphenoxy)dimethylsilane (320 mg, 1.16 mmol) in THF (10 mL) was added a solution of tetrabutylammonium fluoride (5.0 mL, 1 M in THF, 5.0 mmol) and acetic acid (0.40 mL). The reaction was stirred at room temperature for 3 h and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=85:15) yielded 175 mg (93%) of 4-cyclopropyl-2,6-dimethylphenol as a light yellow oil.

reactant | (4-bromo-2,6-dimethylphenoxy)tert-butyldimethylsilane | 2.12 mmol, 668 mg | BrC1=CC(=C(O[Si](C)(C)C(C)(C)C)C(=C1)C)C | C14H23BrOSi
reactant | cyclopropyl zinc chloride | 11.2 mmol, 28.0 mL | [Cl-].C1(CC1)[Zn+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 mmol, 122 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl(4-cyclopropyl-2,6-dimethylphenoxy)dimethylsilane | 370 mg, 63% | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1C)C1CC1)C | C17H28OSi
